US08304419B2
To a solution of 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(difluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (81 mg, 0.138 mmol) dissolved in DCM (5 ml) was added TFA (2.00 ml) and the reaction mixture was stirred at RT for 2 hours. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(difluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide (56 mg, 0.123 mmol, 89% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.77 (s, 1H), 7.65 (s, 1H), 7.23-7.50 (m, 4H), 6.81 (t, 1H), 4.64 (s, 2H). LC-MS (ES+) m/z 454.97, [M+H].

reactant | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(difluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.138 mmol, 81 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)F)C#N)F)COCC[Si](C)(C)C | C25H25Cl2F3N4O3Si
reactant | TFA | 2.00 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(difluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1H-imidazole-5-carboxamide | 0.123 mmol, 56 mg, 89% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)F)C#N)F | C19H11Cl2F3N4O2
